US06239126B1
To a solution of 9.8 mL (24 mmole) butyllithium (2.5M solution in hexane) in diethylether (20 mL) under N2 at −78° C. was slowly added 2-bromo-5-fluoroanisole (5.0 g, 24 mmole) in diethylether (5 mL). The mixture was allowed to warm up to −50° C. At this point, 1-benzyl-4-piperidone (4.62 g, 24.4 mmole) in diethylether (3 mL) was added. The resulting mixture was allowed to stirred at −50° C. for 30 minutes, and then warmed to room temperature. The reaction was quenched by dropwise addition of saturated NH4Cl solution. The mixture was then transferred to a separatory funnel, the layers were separated and the aqueous was extracted three times with EtOAc. The combined organic phase was dried over Na2SO4, filtered and concentrated. Flash chromatography (elution with 7:3 EtOAc-hexanes) afforded 5.27 g (68%) of 1-benzyl-4-(5-fluoro-2-methoxy-phenyl)-4-hydroxypiperidine as a yellow oil.

reactant | butyllithium | 24 mmole, 2.5M, 9.8 mL | C(CCC)[Li]
reactant | 2-bromo-5-fluoroanisole | 24 mmole, 5.0 g | BrC1=C(C=C(C=C1)F)OC | C7H6BrFO
reactant | 1-benzyl-4-piperidone | 24.4 mmole, 4.62 g | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
reactant | diethylether | 20 mL | C(C)OCC | C4H10O
reactant | diethylether | 5 mL | C(C)OCC | C4H10O
reactant | diethylether | 3 mL | C(C)OCC | C4H10O
product | 1-benzyl-4-(5-fluoro-2-methoxy-phenyl)-4-hydroxypiperidine | 5.27 g, 68% | C(C1=CC=CC=C1)N1CCC(CC1)(O)C1=C(C=CC(=C1)F)OC | C19H22FNO2
